US06313114B1
N-(4-Benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-ylylmethyl)-3-(1H-indol-3-yl)-propionamide
N-(4-Benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-ylylmethyl)-3-(1H-indol-3-yl)-butyramide. (4-Benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-yl)-methylamnine (1.2 g, 4.7 mmol) was coupled to indole butyric acid (1.8 g, 8.9 mmol) according to the procedure used to prepare intermediatel 1 above to afford 1.3 g (63%) of the title compound as a yellow solid: mp 61-63.5° C.; MS (EI) m/e 439 (M+)

reactant | N-(4-Benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-ylylmethyl)-3-(1H-indol-3-yl)-butyramide | C(C1=CC=CC=C1)N1CC(OC2=C1C=CC=C2)=CNC(CC(C)C2=CNC1=CC=CC=C21)=O | C28H27N3O2
reactant | indole butyric acid | 8.9 mmol, 1.8 g | N1C(=CC2=CC=CC=C12)CCCC(=O)O | C12H13NO2
product | N-(4-Benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-ylylmethyl)-3-(1H-indol-3-yl)-propionamide | 1.3 g, 63% | C(C1=CC=CC=C1)N1CC(OC2=C1C=CC=C2)=CNC(CCC2=CNC1=CC=CC=C21)=O | C27H25N3O2
